US06562811B1
To a stirred solution of tert-butyl 3-[2-amino-3-cyano-6-(2-hydroxyphenyl)-4-pyridinyl]-1-piperidinecarboxylate (0.170 g, 0.431 mmol) in dioxane (30 mL) was added 4N HCl in dioxane (3 mL). The mixture was stirred at room temperature for 12 hrs. The resulting precipitates were collected by filtration and the filtrate was washed with dioxane to give 2-amino-6-(2-hydroxyphenyl)-4-(3-piperidinyl)-nicotinonitrile hydrochloride (0.075 g, yield; 53%).

reactant | tert-butyl 3-[2-amino-3-cyano-6-(2-hydroxyphenyl)-4-pyridinyl]-1-piperidinecarboxylate | 0.431 mmol, 0.170 g | NC1=NC(=CC(=C1C#N)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)O | C22H26N4O3
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-amino-6-(2-hydroxyphenyl)-4-(3-piperidinyl)-nicotinonitrile hydrochloride | 0.075 g, yield; 53% | Cl.NC1=C(C#N)C(=CC(=N1)C1=C(C=CC=C1)O)C1CNCCC1 | InChI=1S/C17H18N4O.ClH/c18-9-14-13(11-4-3-7-20-10-11)8-15(21-17(14)19)12-5-1-2-6-16(12)22;/h1-2,5-6,8,11,20,22H,3-4,7,10H2,(H2,19,21);1H
